US04478849
1-(4-Carbomethoxyphenyl)-2-nitrobut-1-ene
The title compound was prepared in an identical manner to that described in Description 27 using 4-carbomethoxybenzaldehyde and 1-nitropropane. τ(d6DMSO) 8.8 (3H, t, J=7 Hz), 8.08 (3H, s), 7.19 (2H, q, J=7 Hz), 6.12 (3H, s), 2.38 (2H, d, J=8 Hz), 1.97 (2H, d, J=8 Hz), 1.97 (1H, s).

reactant | 4-carbomethoxybenzaldehyde | C(=O)(OC)C1=CC=C(C=O)C=C1 | C9H8O3
reactant | 1-nitropropane | [N+](=O)([O-])CCC | C3H7NO2
product | 1-(4-Carbomethoxyphenyl)-2-nitrobut-1-ene | C(=O)(OC)C1=CC=C(C=C1)C=C(CC)[N+](=O)[O-] | C12H13NO4
